US05488152
8.4 g (0.15 mol) of potassium hydroxide are dissolved in 30 g of water, and 6.6 g (30mmol) of tetrafluorophthalic anhydride and 30 g (0.238 mol) of 4-fluorobenzyl alcohol are added. The mixture is heated at 100° C. for 12 hours after which the procedure as described in Example 2 is followed. It is advantageous not to allow the pH to fall below 3 prior to the extraction steps. This method gives 4.2 g (14 mmol, corresponding to 47%) of (4-fluorobenzyloxy) trifluorobenzoic acid (purity 80-85%).

reactant | potassium hydroxide | 0.15 mol, 8.4 g | [OH-].[K+]
reactant | tetrafluorophthalic anhydride | 30mmol, 6.6 g | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
reactant | 4-fluorobenzyl alcohol | 0.238 mol, 30 g | FC1=CC=C(CO)C=C1 | C7H7FO
solvent | water | 30 g | O | H2O
product | (4-fluorobenzyloxy) trifluorobenzoic acid | 14 mmol, 4.2 g, 47% | FC1=CC=C(COC=2C(=C(C(=C(C(=O)O)C2)F)F)F)C=C1 | C14H8F4O3
